* SPICE subcircuit for bq79616_subckt_001_s39.png
* This subcircuit captures GPIO connections, a basic RC filter, a TVS diode, and multiple NTC thermistor measurement circuits.

.SUBCKT SUBCKT_bq79616_subckt_001_s39 \
+ GPIO1 GPIO2 GPIO3 GPIO4 GPIO5 GPIO6 GPIO7 GPIO8 \
+ GPIO1_R GPIO2_R GPIO3_R GPIO4_R GPIO5_R GPIO6_R GPIO7_R GPIO8_R \
+ GPIO1_C TP44 TSREF PULLUP GND

* J4: GPIO Connector (pins are represented as subcircuit ports)
* The GPIO1 to GPIO8 nets are inputs from an external source.
* The GPIO1_R to GPIO8_R nets are connected to the internal circuitry and J4 outputs.
* Jumper configurations are assumed to be handled externally if needed.

* J5: TSREF/PULLUP Jumper (pins are represented as subcircuit ports)
* TSREF is an input reference.
* PULLUP is used as a voltage rail for pull-up resistors in the NTC circuits.

* RC Filter on GPIO1_C
R128 GPIO1_C GPIO1_R 1.0k
C60 GPIO1_C GND 1uF

* D3: TVS Diode - Stub subcircuit for external protection device
* The internal behavior of D3 is omitted; to be filled by another agent.
* This is a 3-pin TVS diode, with connections to TP44, GPIO1_R, and GND.
XD3 TP44 GPIO1_R GND D3_TVS_stub

* Low Side NTC Thermistor Measurement Circuits
* These circuits consist of a pull-up resistor to PULLUP and a thermistor to GND.
* The thermistors (RTx) are modeled as simple resistors for basic connectivity;
* a more detailed thermistor model would be required for accurate temperature simulation.

* Circuit for GPIO8_R
R7 PULLUP GPIO8_R 10.0k
RT1 GPIO8_R GND 10k * Assumed thermistor, value 10k at reference temperature

* Circuit for GPIO7_R
R8 PULLUP GPIO7_R 10.0k
RT2 GPIO7_R GND 10k * Assumed thermistor, value 10k at reference temperature

* Circuit for GPIO6_R
R11 PULLUP GPIO6_R 10.0k
RT3 GPIO6_R GND 10k * Assumed thermistor, value 10k at reference temperature

* Circuit for GPIO5_R
R14 PULLUP GPIO5_R 10.0k
RT4 GPIO5_R GND 10k * Assumed thermistor, value 10k at reference temperature

* Circuit for GPIO4_R
R15 PULLUP GPIO4_R 10.0k
RT5 GPIO4_R GND 10k * Assumed thermistor, value 10k at reference temperature

* Circuit for GPIO3_R
R16 PULLUP GPIO3_R 10.0k
RT6 GPIO3_R GND 10k * Assumed thermistor, value 10k at reference temperature

* Circuit for GPIO2_R
R18 PULLUP GPIO2_R 10.0k
RT7 GPIO2_R GND 10k * Assumed thermistor, value 10k at reference temperature

* Circuit for GPIO1_R
R19 PULLUP GPIO1_R 10.0k
RT8 GPIO1_R GND 10k * Assumed thermistor, value 10k at reference temperature

* Ignored R20 as it is marked as DNP (Do Not Populate) or crossed out.

.ENDS SUBCKT_bq79616_subckt_001_s39

* Stub for D3 TVS Diode
* This subcircuit is a placeholder for a more complex TVS diode model.
* The pin order (TP44, GPIO1_R, GND) is derived from the schematic.
.SUBCKT D3_TVS_stub TP44 GPIO1_R GND
* Internal behavior intentionally omitted; to be filled by another agent.
.ENDS D3_TVS_stub
